US07482336B2
Step H: trans tert-Butyl (6-(2,4,5-trifluorophenyl)-3-[(triisopropylsilyl)oxy]cyclohex-2-en-1-yl)carbamate
To a round bottomed flask (500 mL) containing trans-6-(2,4,5-trifluorophenyl)-3-[(triisopropylsilyl)oxy]cyclohex-2-en-1-amine (8.77 g) dissolved in dichloromethane (80 mL), triethylamine (3.5 mL) and di-tert-butyl dicarbonate (1.0M in tetrahydrofuran, 25 mL) were added. The mixture was stirred overnight. The next day the solution was evaporated and the concentrated red residue was chromatographed (silica gel, gradient 25-85% dichloromethane—hexane) to yield the desired product.

reactant | trans-6-(2,4,5-trifluorophenyl)-3-[(triisopropylsilyl)oxy]cyclohex-2-en-1-amine | 8.77 g | FC1=C(C=C(C(=C1)F)F)[C@@H]1CCC(=C[C@H]1N)O[Si](C(C)C)(C(C)C)C(C)C | C21H32F3NOSi
reactant | triethylamine | 3.5 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.0M, 25 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | trans tert-Butyl (6-(2,4,5-trifluorophenyl)-3-[(triisopropylsilyl)oxy]cyclohex-2-en-1-yl)carbamate | FC1=C(C=C(C(=C1)F)F)[C@@H]1CCC(=C[C@H]1NC(OC(C)(C)C)=O)O[Si](C(C)C)(C(C)C)C(C)C | C26H40F3NO3Si
